* 08.06.2015
* FAN7621S
* PFM Controller for Half-Bridge Resonant Converters
.subckt FAN7621S HVcc CTR HO NC NC AR NC RT CS SG NC LVcc NC LO NC PG
A4 cosc SG SG SG SG N011 N004 SG COUNTER Vhigh=1 Trise=10n cycles=4
D1 SG N010 z2
V1 N010 RT 0
B2 N007 SG I=2*(I(V1)+0.15m*(2-V(vss)))*V(cosc)
A1 N007 SG SG SG SG SG N008 SG BUF Vhigh=1 Trise=10n Ref=3
A2 N007 SG SG SG SG N012 SG SG BUF Vhigh=1 Trise=10n Ref=1
A3 N008 N012 SG SG SG SG cosc SG SRFLOP Vhigh=1 Trise=10n
C1 N007 SG 234p ic=0
B1 SG N007 I=I(V1)+0.15m*(2-V(vss))
G1 SG N010 iars SG 1.2m
A12 N011 SG SG SG SG SG N013 SG BUF Vhigh=1 Trise=10n Td=350n
A16 N004 SG SG SG SG SG N005 SG BUF Vhigh=1 Trise=10n Td=350n
A17 N004 SG N005 SG ars N009 SG SG OR Vhigh=1 Trise=10n
A18 N011 SG N013 SG ars N015 SG SG OR Vhigh=1 Trise=10n
S3 HO HVcc N002 SG HOUT
S4 CTR HO N006 SG LOUT
S5 LO LVcc N014 SG HOUT
S6 PG LO N017 SG LOUT
A19 N003 SG SG SG N009 N006 N002 SG AND Vhigh=1 Trise=10n
A20 N015 SG SG SG SG N017 N014 SG BUF Vhigh=1 Trise=10n
E2 N001 SG HVcc CTR 1
A21 N001 SG SG SG SG SG N003 SG SCHMITT Vhigh=1 Trise=10n Vt=8.95 Vh=0.25
R1 LVcc SG 250k
R2 HVcc CTR 143k
S7 SG N025 N016 SG AR
R3 LVcc N025 6.3k
R6 nc 0 100meg
A22 LVCC SG SG SG SG SG N021 SG BUF Vhigh=1 Trise=10n Ref=23
A23 N020 SG N021 SG N024 SG err SG OR Vhigh=1 Trise=10n
E3 N019 SG CS SG -1
A24 N019 SG SG SG SG SG N020 SG BUF Vhigh=1 Trise=10n Ref=0.58 Td=1.5u
A25 N019 SG SG SG SG SG N024 SG BUF Vhigh=1 Trise=10n Ref=0.9
S8 SG N023 ars SG AR
C6 vss SG 1.8u ic=0
D4 SG vss z2
G4 SG vss iars SG 1.2m
R10 AR N022 5k
R11 vss N023 10
S9 SG N022 ars SG AR
A26 arn SG SG SG N018 SG nor SG OR Vhigh=1 Trise=10n
R12 ars SG 1k
R13 shd SG 1k
R14 iars SG 1k
A27 AR SG SG SG SG arn SG SG SCHMITT Vhigh=1 Trise=10n Vt=0.6 Vh=0.4
A32 LVCC SG SG SG SG N018 N016 SG SCHMITT Vhigh=1 Trise=10n Vt=11.25 Vh=1.25
D2 HO HVcc swd
D3 CTR HO swd
D5 LO LVcc swd
D6 PG LO swd
.model z2 D(Ron=1 Roff=1g Vfwd=0 Vrev=2)
.model AR SW(Ron=10m Roff=1g Vt=0.5 Vh=-0.1)
.model HOUT SW(Ron=47 Roff=500k Vt=0.5 Vh=-0.1)
.model LOUT SW(Ron=27 Roff=500k Vt=0.5 Vh=-0.1)
.model swd D(Ron=10 Roff=500k Vfwd=0.6)
.machine tripdt=1n
.state s0 0
.state s1 1
.state s2 1
.state s3 2
.rule s0 s1 V(nor)
.rule s1 s2 !V(err) & !V(nor)
.rule s1 s3 V(err)
.rule s2 s0 V(err)
.rule s3 s0 !V(nor)
.output (ars) state == 0
.output (iars) state > 0
.output (shd) state != 1
.endmachine
.ends
*
* 22.03.2019
* FAN7621
* PFM Controller for Half-Bridge Resonant Converters
.subckt FAN7621 HVcc CTR HO nc1 nc2 CON nc3 RT CS SG nc4 LVcc nc5 LO nc6 PG
A4 cosc SG SG SG SG N012 N004 SG COUNTER Vhigh=1 Trise=10n cycles=4
D1 SG N011 z2
V1 N011 RT 0
B2 N007 SG I=2*(I(V1)+0.15m*(2-V(vss)))*V(cosc)
A1 N007 SG SG SG SG SG N008 SG BUF Vhigh=1 Trise=10n Ref=3
A2 N007 SG SG SG SG N013 SG SG BUF Vhigh=1 Trise=10n Ref=1
A3 N008 N013 SG SG SG SG cosc SG SRFLOP Vhigh=1 Trise=10n
C1 N007 SG 234p ic=0
B1 SG N007 I=I(V1)+0.15m*(2-V(vss))
G1 SG N011 N016 SG 1.2m
A12 N012 SG SG SG SG SG N014 SG BUF Vhigh=1 Trise=10n Td=350n
A16 N004 SG SG SG SG SG N005 SG BUF Vhigh=1 Trise=10n Td=350n
A17 N004 SG N005 SG N010 N009 SG SG OR Vhigh=1 Trise=10n
A18 N012 SG N014 SG N010 N017 SG SG OR Vhigh=1 Trise=10n
S3 HO HVcc N002 SG HOUT
S4 CTR HO N006 SG LOUT
S5 LO LVcc N015 SG HOUT
S6 PG LO N018 SG LOUT
A19 N003 SG SG SG N009 N006 N002 SG AND Vhigh=1 Trise=10n
A20 N017 SG SG SG SG N018 N015 SG BUF Vhigh=1 Trise=10n
E2 N001 SG HVcc CTR 1
A21 N001 SG SG SG SG SG N003 SG SCHMITT Vhigh=1 Trise=10n Vt=8.95 Vh=0.25
R1 LVcc SG 250k
R2 HVcc CTR 143k
S7 SG N028 N016 SG CON
R3 LVcc N028 6.3k
R6 nc1 0 100meg
A22 LVCC SG SG SG SG SG N024 SG BUF Vhigh=1 Trise=10n Ref=23
E3 N030 SG CS SG -1
A24 N030 SG SG SG SG SG N023 SG BUF Vhigh=1 Trise=10n Ref=0.58 Td=1.5u
A25 N030 SG SG SG SG SG N031 SG BUF Vhigh=1 Trise=10n Ref=0.9
S8 SG N027 N025 SG CON
C6 vss SG 1.8u ic=0
D4 SG vss z2
G4 SG vss N016 SG 1.2m
R10 CON N026 20k
R11 vss N027 10
S9 SG N026 N025 SG CON
A27 CON SG SG SG SG N019 SG SG SCHMITT Vhigh=1 Trise=10n Vt=0.5 Vh=0.1
A32 LVCC SG SG SG SG N025 N016 SG SCHMITT Vhigh=1 Trise=10n Vt=11.25 Vh=1.25
D2 HO HVcc swd
D3 CTR HO swd
D5 LO LVcc swd
D6 PG LO swd
I1 LVCC CON 5u load
A5 CON SG SG SG SG SG N020 SG BUF Vhigh=1 Trise=10n Ref=5
A6 N020 SG SG N023 N024 SG N021 SG OR Vhigh=1 Trise=10n
A7 N025 N021 SG SG SG N022 SG SG SRFLOP Vhigh=1 Trise=10n
A8 N029 N031 SG SG SG N032 SG SG SRFLOP Vhigh=1 Trise=10n
A9 LVCC SG SG SG SG N029 SG SG BUF Vhigh=1 Trise=10n Ref=5
A10 N022 N019 SG SG N032 SG N010 SG OR Vhigh=1 Trise=10n
R4 nc2 0 100meg
R5 nc3 0 100meg
R7 nc4 0 100meg
R8 nc5 0 100meg
R9 nc6 0 100meg
.model z2 D(Ron=1 Roff=1g Vfwd=0 Vrev=2)
.model CON SW(Ron=10m Roff=1g Vt=0.5 Vh=-0.1)
.model HOUT SW(Ron=51 Roff=500k Vt=0.5 Vh=-0.1)
.model LOUT SW(Ron=30 Roff=500k Vt=0.5 Vh=-0.1)
.model swd D(Ron=30 Roff=500k Vfwd=0.6)
.ends
